US06852730B2
1,3-cycloheptanedione (4.0 g) in 10 mL of dimethylformamide demethyl acetal is stirred at 90° C. for 90 minutes. The excess DMF/DMA is evaporated under vacuum; ether is added to the residue. The mixture is stirred at reflux and cooled. The solid is filtered to give 4.0 g of 2-dimethylaminomethylene-cycloheptane-1,3-dione as a brownish solid. 1H NMR (CDCl3): 1.80-1.90(m, 4H), 2.60(m, 4H), 2.80(s. 3H), 3.30 (s, 3H), 7.70 (s, s, 1H). LR-MS: MW 181.23, Found: 182.1 (M+1). Step 2: A solution of hydrazine monohydrate (0.7 g) in 5 mL of MeOH is added dropwise to a solution of 2-dimethylaminomethylene-cycloheptane-1,3-dione (2.5 g) in 50 mL of MeOH at 0° C. After addition, the reaction mixture is heated at reflux for 2 hours, then concentrated to a solid in vacuo. The solid is triturated with EtOAc and hexane, and filtered to yield 5,6,7,8-tetrahydro-1H-cycloheptapyrazol-4-one as a tan solid. 1H NMR (CDCl3): 1.90-2.10(m, 4H), 2.70(m, 2H), 3.05(t, 2H), 8.05(s, 1H), LR-MS: MW 150.18, Found: 151.2 (M+1). Step 3: A mixture of 5,6,7,8-tetrahydro-1H-cycloheptapyrazol-4-one (1.5 g), 3-(dimethylamino)-acrolein (Aldrich, 2.0 g, 2 eq.), piperidine (1.7 g, 2 eq.), and NH4OAc (3.0 g, 4 eq.) is heated at 100° C. for 4 hr under N2, then cooled. An additional 2 equivalents of acrolein and NH4OAc are added and the mixture is heated at 100° C. overnight. After cooling, 1 N HCl is added. The reaction mixture it is extracted with CH2Cl2 (4 eq.); the extract is discarded. The aqueous layer is basified with NH4OH and extracted with CH2Cl2 containing 5% EtOH (4 eq.). The combined extracts are washed with water, dried and concentrated to give 3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene as a glassy oil. 1H NMR (CDCl3): 2.05(m, 2H), 2.90(m, 2H), 3.10(t, 2H), 7.00(m, 1H), 7.20(d, 1H), 8.30(s, 1H), 8.40(d, 1H). LR-MS: MW 185.23, Found: 186.06(M+1). Step 4: A mixture of 3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene (1.0 g), NBS (1.0 g), and sodium acetate (860 mg) in 35 mL of dichloroethane is stirred at 60° C. for 6 hours, and then cooled and diluted with CH2Cl2. The organic mixture is washed with water, dried over Na2SO4, and concentrated to provide 1-bromo-3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene as a tan solid. 1H NMR (CDCl3): 2.10(m, 2H), 2.70 (m, 2H), 2.95 (t, 2H), 7.10 (m, 1H), 7.50 (d, 1H), 8.60 (d, 1H). LR-MS: MW 264.12, Found: 266.0. Step 5a: 0.6 mL of 1.7 M of t-BuLi in pentane is added dropwise under argon to a stirred solution of 1-bromo-3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene (100 mg) in 5 mL of anhydrous THF at −78° C. After addition, 55 uL of phenyl isocyanate is added dropwise to the mixture at −78° C. The reaction mixture is allowed to warm to −10° C. over a period of 1 hour, quenched with aqueous NH4Cl solution, and extracted with EtOAc. The extract is washed with water, dried, and concentrated to an oil. Purification on a silica gel plate, eluting with 10% MeOH in CH2Cl2 provides 3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene-1-carboxylic acid phenylamide as a solid. 1H NMR(CDCl3): 2.32(m, 2H), 2.68(t, 2H), 2.87(t, 2H), 7.15(t,1H), 7.27(t,1H), 7.36(t, 2H), 7.68-7.77(m, 3H), 8.61(d, 1H), 13.3(s, 1H). LR-MS: MW 304.35, Found: 305.06(M+1).

reactant | 5,6,7,8-tetrahydro-1H-cycloheptapyrazol-4-one | 1.5 g | N1N=CC2=C1CCCCC2=O | C8H10N2O
reactant | 3-(dimethylamino)-acrolein | 2.0 g, 2 eq. | CN(C=CC=O)C | C5H9NO
reactant | piperidine | 1.7 g, 2 eq. | N1CCCCC1 | C5H11N
reactant | acrolein | 2 equivalents | C(=O)C=C | C3H4O
reactant | HCl | 1 N | Cl | ClH
reactant | CH2Cl2 | 4 eq. | C(Cl)Cl | CH2Cl2
reactant | NH4OH | [NH4+].[OH-]
reactant | CH2Cl2 | 4 eq. | C(Cl)Cl | CH2Cl2
product | 3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene | C1=NNC=2CCCC3=C(C12)N=CC=C3 | C11H11N3
